* DBMono BLDC V1.0 — single half-bridge switching cell
* Verifies per-FET dissipation at the design center vs analytical estimate.
*
* Topology:
*   +Vbus ──[VsenseHS]──[HS FET XQ1]── SW ──[I_LOAD]── GND
*                                       │
*                                  [LS FET XQ2]
*                                       │
*                                  [VsenseLS]
*                                       │
*                                  [Rshunt]── PGND
*
* The 0V Vsense sources let us measure FET drain currents directly.
* Load is constant DC current source representing motor phase current at
* one operating point (worst case = peak of sine for switching loss).
*
* Test 1: 48V bus, 20A load, 30 kHz, ~50% duty, Medium IDRIVE = 500/1000 mA

.include tph3r70apl.lib
.include drv8353_gate_driver.lib

* =====================================================================
* Operating point parameters
* =====================================================================
.param vbus_v   = 48
.param iload_a  = 20
.param fsw_hz   = 30k
.param duty     = 0.5
.param dt_s     = 200n
.param idrivep_a = 150m
.param idriven_a = 300m
.param vcp_v    = 10
.param vgls_v   = 12

.param tper    = {1/fsw_hz}
.param thson   = {duty*tper - dt_s}
.param tlson   = {(1-duty)*tper - dt_s}

* =====================================================================
* Power circuit
* =====================================================================
Vbus VBUS_RAW 0 DC {vbus_v}
* DC bus bulk + local decoupling (320µF total ≈ 2× 150µF + 11µF MLCC)
Cbus VBUS_RAW 0 320u IC={vbus_v}
* Series resistance — tiny, just to break ideal voltage source
Rbus_esl VBUS_RAW VBUS 1m

* High-side FET, with current sense resistor at drain
VsenseHS VBUS HSD DC 0
XQ1 HSD GHS SW TPH3R70APL

* Low-side FET, with current sense resistor at drain (= SW node)
* And source going through shunt
XQ2 SW GLS LSS TPH3R70APL
VsenseLS LSS SHUNT_HI DC 0
Rshunt SHUNT_HI 0 0.5m

* Load: constant current (representing peak motor phase current)
Iload SW 0 DC {iload_a}

* =====================================================================
* Gate drive supplies
* =====================================================================
* High-side: VCP referenced to SW (floating source of HS FET)
Vvcp VCP_NODE SW DC {vcp_v}
* Low-side: VGLS referenced to ground
Vvgls VGLS_NODE 0 DC {vgls_v}

* =====================================================================
* PWM control
* =====================================================================
* HS PWM: starts on at t=2µs, off after THSON, period TPER
Vpwm_hs PWM_HS 0 PULSE(0 5 2u 10n 10n {thson} {tper})
* LS PWM: complementary with dead time
Vpwm_ls PWM_LS 0 PULSE(0 5 {2u + thson + dt_s} 10n 10n {tlson} {tper})

* =====================================================================
* Gate drivers (DRV8353 behavioral)
* =====================================================================
XDRVH PWM_HS GHS SW VCP_NODE 0 DRV8353_DRIVER
+ params: IDRIVEP={idrivep_a} IDRIVEN={idriven_a} VGS_TARGET=10
XDRVL PWM_LS GLS LSS VGLS_NODE 0 DRV8353_DRIVER
+ params: IDRIVEP={idrivep_a} IDRIVEN={idriven_a} VGS_TARGET=10

* Initial conditions: gates off, SW low (LS body diode would conduct)
.IC V(GHS)=0 V(GLS)=0 V(SW)=0

* =====================================================================
* Simulation control
* =====================================================================
.OPTIONS RELTOL=0.005 VNTOL=10u ABSTOL=10u CHGTOL=1p GMIN=1E-9
+ ITL1=2000 ITL2=2000 ITL4=1000 METHOD=GEAR TRTOL=7
+ RSHUNT=1e8

* Run for 6 PWM cycles after settle
.tran 1n 220u UIC

.control
  set ngbehavior=psa
  set filetype = ascii
  set wr_singlescale
  set wr_vecnames

  echo ""
  echo "==============================================================="
  echo "Half-bridge sim: VBUS=48V, ILOAD=20A, FSW=30kHz, IDRIVE=Medium"
  echo "==============================================================="

  run

  * Compute per-FET instantaneous power dissipation
  * HS FET: V across (HSD,SW) × current into drain (i(VsenseHS))
  let p_hs = (v(HSD) - v(SW)) * i(VsenseHS)
  * LS FET: V across (SW,LSS) × current into LS drain
  * LS drain current = current out of SW going down through LS = i(VsenseLS)
  * (positive when flowing from SW into LS source path)
  let p_ls = (v(SW) - v(LSS)) * i(VsenseLS)

  * Average over the last 4 cycles (skip first 2 for transients to settle)
  meas tran p_hs_avg AVG p_hs from=70u to=200u
  meas tran p_ls_avg AVG p_ls from=70u to=200u

  * Total power dissipated by FETs
  let p_fet_total = p_hs + p_ls
  meas tran p_fet_total_avg AVG p_fet_total from=70u to=200u

  * Switch node behavior — ringing, slew rate
  meas tran sw_max MAX v(SW) from=70u to=200u
  meas tran sw_min MIN v(SW) from=70u to=200u

  * Switching transition timing (one rising edge, one falling)
  meas tran t_rise TRIG v(SW) VAL=4.8 RISE=3 TARG v(SW) VAL=43.2 RISE=3
  meas tran t_fall TRIG v(SW) VAL=43.2 FALL=3 TARG v(SW) VAL=4.8 FALL=3

  echo ""
  echo "===== Per-FET dissipation ====="
  print p_hs_avg
  print p_ls_avg
  print p_fet_total_avg
  echo ""
  echo "===== SW node ====="
  print sw_max
  print sw_min
  print t_rise
  print t_fall
  echo ""

  wrdata waves.csv v(VBUS) v(SW) v(GHS) v(GLS) i(VsenseHS) i(VsenseLS)
  wrdata power.csv p_hs p_ls

  echo "===== Done ====="
.endc

.end
